US08530470B2
The above mixture of tert-butyl 2-(6-(morpholine-4-carbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate compound and tert-butyl 2-(6-(morpholine-4-carbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate (1:1) (2.1 g, 2.05 mmol) and platinum(IV) oxide (0.093 g, 0.41 mmol) in ethanol (30 ml) was hydrogenated under 1.2 atm at room temperature for 4 h. The resulting solution was filtered and the filtrate was concentrated to dryness to afford the crude tert-butyl 2-(6-(morpholine-4-carbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate (1.60 g, 76%) as an orange solid. Mass Spectrum: m/z [M+H]+=514.

reactant | tert-butyl 2-(6-(morpholine-4-carbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate | N1(CCOCC1)C(=O)C=1C=C2C(C=C(OC2=C(C1)C1N(C=CC1)C(=O)OC(C)(C)C)N1CCOCC1)=O | C27H33N3O7
reactant | tert-butyl 2-(6-(morpholine-4-carbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate | 2.05 mmol, 2.1 g | N1(CCOCC1)C(=O)C=1C=C2C(C=C(OC2=C(C1)C1N(CC=C1)C(=O)OC(C)(C)C)N1CCOCC1)=O | C27H33N3O7
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 0.41 mmol, 0.093 g | [Pt](=O)=O
product | tert-butyl 2-(6-(morpholine-4-carbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate | 1.60 g, 76% | N1(CCOCC1)C(=O)C=1C=C2C(C=C(OC2=C(C1)C1N(CCC1)C(=O)OC(C)(C)C)N1CCOCC1)=O | C27H35N3O7
